US08604024B2
A solution of 7-bromo-3,4-dihydronaphthalen-1(2H)-one (2.00 g, 8.89 mmol) in THF (50 mL) was added to a mixture of N-methylanilinium trifluoroacetate (2.95 g, 13.3 mmol) and paraformaldehyde (1.20 g, 40.0 mmol) at rt. The resulting mixture was heated at reflux for 6 hours. The oil bath was removed and the mixture was allowed to cool to rt. Diethyl ether was added to the reaction mixture, which induced the separation of a red gum. The ethereal solution was decanted from the red gum into a separatory funnel and washed with half-saturated sodium bicarbonate solution. The red gum was triturated with diethyl ether, and the resulting ethereal solution was then used to extract the washing water. The combined organic layers were dried over magnesium sulfate. Filtration and concentration of the organic layer afforded a heavy red oil. The oil was purified using silica gel column chromatography (20:1 hexanes/EtOAc) to afford 7-bromo-2-methylene-3,4-dihydronaphthalen-1(2H)-one (0.850 g, 3.59 mmol, 40% yield) as a thick viscous yellow oil. 1H NMR (400 MHz, chloroform-d) δ 8.23 (d, J=2.0 Hz, 1H), 7.60 (dd, J=8.2, 2.1 Hz, 1H), 7.16 (d, J=8.3 Hz, 1H), 6.26 (q, J=1.3 Hz, 1H), 5.50 (q, J=1.7 Hz, 1H), 3.01-2.91 (m, 2H), 2.91-2.82 (m, 2H).

reactant | 7-bromo-3,4-dihydronaphthalen-1(2H)-one | 8.89 mmol, 2.00 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | N-methylanilinium trifluoroacetate | 13.3 mmol, 2.95 g | FC(C(=O)[O-])(F)F.C[NH2+]C1=CC=CC=C1
reactant | paraformaldehyde | 40.0 mmol, 1.20 g | C=O | CH2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-bromo-2-methylene-3,4-dihydronaphthalen-1(2H)-one | 3.59 mmol, 0.850 g, 40% yield | BrC1=CC=C2CCC(C(C2=C1)=O)=C | C11H9BrO
